.title KiCad schematic
K0:0 Net-_K0:0-Pad1_ Net-_D0:0-Pad2_ KEYSW
K1:0 Net-_K1:0-Pad1_ Net-_D1:0-Pad2_ KEYSW
K0:1 Net-_K0:0-Pad1_ Net-_D0:1-Pad2_ KEYSW
K1:1 Net-_K1:0-Pad1_ Net-_D1:1-Pad2_ KEYSW
K0:2 Net-_K0:0-Pad1_ Net-_D0:2-Pad2_ KEYSW
K1:2 Net-_K1:0-Pad1_ Net-_D1:2-Pad2_ KEYSW
K0:3 Net-_K0:0-Pad1_ Net-_D0:3-Pad2_ KEYSW
K1:3 Net-_K1:0-Pad1_ Net-_D1:3-Pad2_ KEYSW
K0:4 Net-_K0:0-Pad1_ Net-_D0:4-Pad2_ KEYSW
K1:4 Net-_K1:0-Pad1_ Net-_D1:4-Pad2_ KEYSW
D0:0 Net-_D0:0-Pad1_ Net-_D0:0-Pad2_ D
D1:0 Net-_D0:0-Pad1_ Net-_D1:0-Pad2_ D
D0:1 Net-_D0:1-Pad1_ Net-_D0:1-Pad2_ D
D1:1 Net-_D0:1-Pad1_ Net-_D1:1-Pad2_ D
D0:2 Net-_D0:2-Pad1_ Net-_D0:2-Pad2_ D
D1:2 Net-_D0:2-Pad1_ Net-_D1:2-Pad2_ D
D0:3 Net-_D0:3-Pad1_ Net-_D0:3-Pad2_ D
D1:3 Net-_D0:3-Pad1_ Net-_D1:3-Pad2_ D
D1:4 Net-_D0:4-Pad1_ Net-_D1:4-Pad2_ D
K2:0 Net-_K2:0-Pad1_ Net-_D2:0-Pad2_ KEYSW
K2:1 Net-_K2:0-Pad1_ Net-_D2:1-Pad2_ KEYSW
K3:1 Net-_K3:0-Pad1_ Net-_D3:1-Pad2_ KEYSW
K2:2 Net-_K2:0-Pad1_ Net-_D2:2-Pad2_ KEYSW
K3:2 Net-_K3:0-Pad1_ Net-_D3:2-Pad2_ KEYSW
K2:3 Net-_K2:0-Pad1_ Net-_D2:3-Pad2_ KEYSW
K3:3 Net-_K3:0-Pad1_ Net-_D3:3-Pad2_ KEYSW
K2:4 Net-_K2:0-Pad1_ Net-_D2:4-Pad2_ KEYSW
D2:0 Net-_D0:0-Pad1_ Net-_D2:0-Pad2_ D
D3:0 Net-_D0:0-Pad1_ Net-_D3:0-Pad2_ D
D2:1 Net-_D0:1-Pad1_ Net-_D2:1-Pad2_ D
D3:1 Net-_D0:1-Pad1_ Net-_D3:1-Pad2_ D
D2:2 Net-_D0:2-Pad1_ Net-_D2:2-Pad2_ D
D3:2 Net-_D0:2-Pad1_ Net-_D3:2-Pad2_ D
D2:3 Net-_D0:3-Pad1_ Net-_D2:3-Pad2_ D
D3:3 Net-_D0:3-Pad1_ Net-_D3:3-Pad2_ D
D2:4 Net-_D0:4-Pad1_ Net-_D2:4-Pad2_ D
K4:1 Net-_K4:0-Pad1_ Net-_D4:1-Pad2_ KEYSW
K4:2 Net-_K4:0-Pad1_ Net-_D4:2-Pad2_ KEYSW
K4:3 Net-_K4:0-Pad1_ Net-_D4:3-Pad2_ KEYSW
D4:0 Net-_D0:0-Pad1_ Net-_D4:0-Pad2_ D
D4:1 Net-_D0:1-Pad1_ Net-_D4:1-Pad2_ D
D4:2 Net-_D0:2-Pad1_ Net-_D4:2-Pad2_ D
D4:3 Net-_D0:3-Pad1_ Net-_D4:3-Pad2_ D
K4:0 Net-_K4:0-Pad1_ Net-_D4:0-Pad2_ KEYSW
K5:0 Net-_K5:0-Pad1_ Net-_D5:0-Pad2_ KEYSW
D5:0 Net-_D0:0-Pad1_ Net-_D5:0-Pad2_ D
D5:1 Net-_D0:1-Pad1_ Net-_D5:1-Pad2_ D
D5:2 Net-_D0:2-Pad1_ Net-_D5:2-Pad2_ D
D5:3 Net-_D0:3-Pad1_ Net-_D5:3-Pad2_ D
K5:1 Net-_K5:0-Pad1_ Net-_D5:1-Pad2_ KEYSW
K5:2 Net-_K5:0-Pad1_ Net-_D5:2-Pad2_ KEYSW
K5:3 Net-_K5:0-Pad1_ Net-_D5:3-Pad2_ KEYSW
D6:0 Net-_D0:0-Pad1_ Net-_D6:0-Pad2_ D
D6:1 Net-_D0:1-Pad1_ Net-_D6:1-Pad2_ D
D6:2 Net-_D0:2-Pad1_ Net-_D6:2-Pad2_ D
D6:3 Net-_D0:3-Pad1_ Net-_D6:3-Pad2_ D
K6:0 Net-_K6:0-Pad1_ Net-_D6:0-Pad2_ KEYSW
K6:1 Net-_K6:0-Pad1_ Net-_D6:1-Pad2_ KEYSW
K6:2 Net-_K6:0-Pad1_ Net-_D6:2-Pad2_ KEYSW
K6:3 Net-_K6:0-Pad1_ Net-_D6:3-Pad2_ KEYSW
D7:0 Net-_D0:0-Pad1_ Net-_D7:0-Pad2_ D
D7:1 Net-_D0:1-Pad1_ Net-_D7:1-Pad2_ D
D7:2 Net-_D0:2-Pad1_ Net-_D7:2-Pad2_ D
D7:3 Net-_D0:3-Pad1_ Net-_D7:3-Pad2_ D
K7:0 Net-_K7:0-Pad1_ Net-_D7:0-Pad2_ KEYSW
K7:1 Net-_K7:0-Pad1_ Net-_D7:1-Pad2_ KEYSW
K7:2 Net-_K7:0-Pad1_ Net-_D7:2-Pad2_ KEYSW
K7:3 Net-_K7:0-Pad1_ Net-_D7:3-Pad2_ KEYSW
D8:0 Net-_D0:0-Pad1_ Net-_D8:0-Pad2_ D
D8:1 Net-_D0:1-Pad1_ Net-_D8:1-Pad2_ D
D8:2 Net-_D0:2-Pad1_ Net-_D8:2-Pad2_ D
D8:3 Net-_D0:3-Pad1_ Net-_D8:3-Pad2_ D
K8:0 Net-_K8:0-Pad1_ Net-_D8:0-Pad2_ KEYSW
K8:1 Net-_K8:0-Pad1_ Net-_D8:1-Pad2_ KEYSW
K8:2 Net-_K8:0-Pad1_ Net-_D8:2-Pad2_ KEYSW
K8:3 Net-_K8:0-Pad1_ Net-_D8:3-Pad2_ KEYSW
D9:0 Net-_D0:0-Pad1_ Net-_D9:0-Pad2_ D
D9:1 Net-_D0:1-Pad1_ Net-_D9:1-Pad2_ D
D9:2 Net-_D0:2-Pad1_ Net-_D9:2-Pad2_ D
D9:3 Net-_D0:3-Pad1_ Net-_D9:3-Pad2_ D
D9:4 Net-_D0:4-Pad1_ Net-_D9:4-Pad2_ D
K9:0 Net-_K9:0-Pad1_ Net-_D9:0-Pad2_ KEYSW
K9:1 Net-_K9:0-Pad1_ Net-_D9:1-Pad2_ KEYSW
K9:2 Net-_K9:0-Pad1_ Net-_D9:2-Pad2_ KEYSW
K9:3 Net-_K9:0-Pad1_ Net-_D9:3-Pad2_ KEYSW
D10:0 Net-_D0:0-Pad1_ Net-_D10:0-Pad2_ D
D10:1 Net-_D0:1-Pad1_ Net-_D10:1-Pad2_ D
D10:2 Net-_D0:2-Pad1_ Net-_D10:2-Pad2_ D
D10:3 Net-_D0:3-Pad1_ Net-_D10:3-Pad2_ D
K10:0 Net-_K10:0-Pad1_ Net-_D10:0-Pad2_ KEYSW
K10:1 Net-_K10:0-Pad1_ Net-_D10:1-Pad2_ KEYSW
K10:2 Net-_K10:0-Pad1_ Net-_D10:2-Pad2_ KEYSW
K10:3 Net-_K10:0-Pad1_ Net-_D10:3-Pad2_ KEYSW
D11:0 Net-_D0:0-Pad1_ Net-_D11:0-Pad2_ D
D11:1 Net-_D0:1-Pad1_ Net-_D11:1-Pad2_ D
D11:2 Net-_D0:2-Pad1_ Net-_D11:2-Pad2_ D
D11:3 Net-_D0:3-Pad1_ Net-_D11:3-Pad2_ D
K11:0 Net-_K11:0-Pad1_ Net-_D11:0-Pad2_ KEYSW
K11:1 Net-_K11:0-Pad1_ Net-_D11:1-Pad2_ KEYSW
K11:2 Net-_K11:0-Pad1_ Net-_D11:2-Pad2_ KEYSW
K11:3 Net-_K11:0-Pad1_ Net-_D11:3-Pad2_ KEYSW
D12:0 Net-_D0:0-Pad1_ Net-_D12:0-Pad2_ D
D12:1 Net-_D0:1-Pad1_ Net-_D12:1-Pad2_ D
D12:3 Net-_D0:3-Pad1_ Net-_D12:3-Pad2_ D
K12:0 Net-_K12:0-Pad1_ Net-_D12:0-Pad2_ KEYSW
K12:1 Net-_K12:0-Pad1_ Net-_D12:1-Pad2_ KEYSW
K12:2 Net-_K12:0-Pad1_ Net-_D12:2-Pad2_ KEYSW
K12:3 Net-_K12:0-Pad1_ Net-_D12:3-Pad2_ KEYSW
D13:0 Net-_D0:0-Pad1_ Net-_D13:0-Pad2_ D
D13:2 Net-_D0:2-Pad1_ Net-_D13:2-Pad2_ D
K13:0 Net-_K13:0-Pad1_ Net-_D13:0-Pad2_ KEYSW
K13:1 Net-_K13:0-Pad1_ Net-_D13:1-Pad2_ KEYSW
K13:2 Net-_K13:0-Pad1_ Net-_D13:2-Pad2_ KEYSW
D14:1 Net-_D0:1-Pad1_ Net-_D14:1-Pad2_ D
K14:0 Net-_K14:0-Pad1_ Net-_D14:0-Pad2_ KEYSW
K14:1 Net-_K14:0-Pad1_ Net-_D14:1-Pad2_ KEYSW
D15:0 Net-_D0:0-Pad1_ Net-_D15:0-Pad2_ D
K15:0 Net-_K15:0-Pad1_ Net-_D15:0-Pad2_ KEYSW
D15:4 Net-_D0:4-Pad1_ Net-_D15:4-Pad2_ D
D13:3 Net-_D0:3-Pad1_ Net-_D13:3-Pad2_ D
D14:4 Net-_D0:4-Pad1_ Net-_D14:4-Pad2_ D
K16:1 Net-_K16:0-Pad1_ Net-_D16:1-Pad2_ KEYSW
D16:0 Net-_D0:0-Pad1_ Net-_D16:0-Pad2_ D
D16:1 Net-_D0:1-Pad1_ Net-_D16:1-Pad2_ D
D15:1 Net-_D0:1-Pad1_ Net-_D15:1-Pad2_ D
D16:2 Net-_D0:2-Pad1_ Net-_D16:2-Pad2_ D
D15:2 Net-_D0:2-Pad1_ Net-_D15:2-Pad2_ D
D14:3 Net-_D0:3-Pad1_ Net-_D14:3-Pad2_ D
D16:3 Net-_D0:3-Pad1_ Net-_D16:3-Pad2_ D
D16:4 Net-_D0:4-Pad1_ Net-_D16:4-Pad2_ D
K15:1 Net-_K15:0-Pad1_ Net-_D15:1-Pad2_ KEYSW
K16:3 Net-_K16:0-Pad1_ Net-_D16:3-Pad2_ KEYSW
D4:4 Net-_D0:4-Pad1_ Net-_D4:4-Pad2_ D
K4:4 Net-_K4:0-Pad1_ Net-_D4:4-Pad2_ KEYSW
D5:4 Net-_D0:4-Pad1_ Net-_D5:4-Pad2_ D
D3:4 Net-_D0:4-Pad1_ Net-_D3:4-Pad2_ D
K3:0 Net-_K3:0-Pad1_ Net-_D3:0-Pad2_ KEYSW
K15:4 Net-_K15:0-Pad1_ Net-_D15:4-Pad2_ KEYSW
K14:4 Net-_K14:0-Pad1_ Net-_D14:4-Pad2_ KEYSW
K14:2 Net-_K14:0-Pad1_ Net-_D14:2-Pad2_ KEYSW
K13:3 Net-_K13:0-Pad1_ Net-_D13:3-Pad2_ KEYSW
K16:0 Net-_K16:0-Pad1_ Net-_D16:0-Pad2_ KEYSW
K16:4 Net-_K16:0-Pad1_ Net-_D16:4-Pad2_ KEYSW
K14:3 Net-_K14:0-Pad1_ Net-_D14:3-Pad2_ KEYSW
K16:2 Net-_K16:0-Pad1_ Net-_D16:2-Pad2_ KEYSW
K5:4 Net-_K5:0-Pad1_ Net-_D5:4-Pad2_ KEYSW
K15:2 Net-_K15:0-Pad1_ Net-_D15:2-Pad2_ KEYSW
D13:1 Net-_D0:1-Pad1_ Net-_D13:1-Pad2_ D
D12:2 Net-_D0:2-Pad1_ Net-_D12:2-Pad2_ D
D14:2 Net-_D0:2-Pad1_ Net-_D14:2-Pad2_ D
D14:0 Net-_D0:0-Pad1_ Net-_D14:0-Pad2_ D
K15:3 Net-_K15:0-Pad1_ Net-_D15:3-Pad2_ KEYSW
D15:3 Net-_D0:3-Pad1_ Net-_D15:3-Pad2_ D
LED3 Net-_LED3-Pad1_ Net-_LED3-Pad2_ LED
R5 Net-_LED1-Pad2_ GND 1k
R6 Net-_LED2-Pad2_ GND 1k
R4 GND Net-_LED4-Pad2_ 1k
LED2 Net-_LED2-Pad1_ Net-_LED2-Pad2_ LED
LED1 Net-_LED1-Pad1_ Net-_LED1-Pad2_ LED
D0:4 Net-_D0:4-Pad1_ Net-_D0:4-Pad2_ D
K1:4_1 Net-_K1:0-Pad1_ Net-_D1:4-Pad2_ KEYSW
K3:3_1 Net-_K3:0-Pad1_ Net-_D3:3-Pad2_ KEYSW
X1 Net-_C1-Pad1_ Net-_C2-Pad1_ GND XTAL_GND
C1 Net-_C1-Pad1_ GND 22pF
C2 Net-_C2-Pad1_ GND 22pF
C3 +5V GND 0.1uF
R3 GND Net-_R3-Pad2_ 10k
SW1 GND Net-_SW1-Pad2_ SW_JUMP
C8 Net-_C8-Pad1_ GND 1uF
C7 Net-_C7-Pad1_ GND 0.1uF
C6 +5V GND 0.1uF
R1 Net-_R1-Pad1_ Net-_J1-Pad2_ 22
R2 Net-_R2-Pad1_ Net-_J1-Pad3_ 22
SJ2 Net-_SJ1-Pad1_ Net-_LED4-Pad1_ SOLDER_JUMPER
SJ1 Net-_SJ1-Pad1_ Net-_LED2-Pad1_ SOLDER_JUMPER
R7 Net-_LED3-Pad2_ GND 1k
LED4 Net-_LED4-Pad1_ Net-_LED4-Pad2_ LED
C5 +5V GND 0.1uF
C4 +5V GND 0.1uF
U1 Net-_D0:0-Pad1_ +5V Net-_R1-Pad1_ Net-_R2-Pad1_ GND Net-_C8-Pad1_ +5V Net-_K14:0-Pad1_ Net-_K15:0-Pad1_ Net-_K16:0-Pad1_ Net-_D0:2-Pad1_ Net-_D0:1-Pad1_ Net-_SW1-Pad2_ +5V GND Net-_C2-Pad1_ Net-_C1-Pad1_ Net-_D0:4-Pad1_ Net-_K0:0-Pad1_ Net-_K1:0-Pad1_ Net-_K2:0-Pad1_ Net-_LED1-Pad1_ GND +5V Net-_K3:0-Pad1_ Net-_SJ1-Pad1_ Net-_LED3-Pad1_ Net-_K4:0-Pad1_ Net-_K5:0-Pad1_ Net-_K6:0-Pad1_ Net-_K7:0-Pad1_ Net-_D0:3-Pad1_ Net-_R3-Pad2_ +5V GND Net-_K8:0-Pad1_ Net-_K9:0-Pad1_ Net-_K10:0-Pad1_ Net-_K11:0-Pad1_ Net-_K12:0-Pad1_ Net-_K13:0-Pad1_ Net-_C7-Pad1_ GND +5V ATmega32U4-AU
C9 +5V GND 4.7uF
J1 +5V Net-_J1-Pad2_ Net-_J1-Pad3_ NC_01 GND NC_02 USB_mini_micro_B
K3:4 Net-_K3:0-Pad1_ Net-_D3:4-Pad2_ KEYSW
K0:4_1 Net-_K0:0-Pad1_ Net-_D0:4-Pad2_ KEYSW
K0:3_1 Net-_K0:0-Pad1_ Net-_D0:3-Pad2_ KEYSW
K9:4 Net-_K9:0-Pad1_ Net-_D9:4-Pad2_ KEYSW
C10 +5V GND 1uF
K2:4_1 Net-_K2:0-Pad1_ Net-_D2:4-Pad2_ KEYSW
K5:4_1 Net-_K5:0-Pad1_ Net-_D5:4-Pad2_ KEYSW
K14:4_1 Net-_K14:0-Pad1_ Net-_D14:4-Pad2_ KEYSW
.end
